US07851484B2
In a 30 mL scintillation vial equipped with a stir bar was added ethyl acetate (10 mL), 5-chloro-3-fluoro-2-nitropyridine (101 mg, 0.56 mmol), and 3-aminopentane (74 mL, 0.63 mmol). The reaction was stirred at room temperature until starting material was consumed (TLC 25% ethyl acetate in hexanes). To this solution was added tin(II) chloride dihydrate (560 mg, 2.5 mmol), and the mixture was stirred until the aryl nitro was completely reduced (4 h to overnight). The solution was transferred from the scintillation vial to a 5 mL microwave tube, followed by the addition of carbonyldiimidazole (>10 equiv). The reaction was heated in a microwave reactor at 150° C. for 20 min. After cooling, water was added, and the organic layer was separated, concentrated, and purified by flash chromatography over silica gel (30-40% ethyl acetate in hexanes) to give 6-chloro-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyridin-2-ol (93 mg, 0.390 mmol, 68% yield).

reactant | 5-chloro-3-fluoro-2-nitropyridine | 0.56 mmol, 101 mg | ClC=1C=C(C(=NC1)[N+](=O)[O-])F | C5H2ClFN2O2
reactant | 3-aminopentane | 0.63 mmol, 74 mL | NC(CC)CC | C5H13N
reactant | tin(II) chloride dihydrate | 2.5 mmol, 560 mg | O.O.[Sn](Cl)Cl
reactant | carbonyldiimidazole | >10 equiv | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | water | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyridin-2-ol | 0.390 mmol, 93 mg, 68% yield | ClC=1C=C2C(=NC1)N=C(N2C(CC)CC)O | C11H14ClN3O
